US08058441B2
1-Acetyl-6-(3-pyridylmethyl)oxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Alkylation of 1-acetyl-6-hydroxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (20 mg) with 3-picolylchloride.HCl (12 mg), cesium carbonate (63 mg) and tetrabutylammonium bromide (30 mg) acetonitrile (1 ml) was performed according to the method described in example 39.

reactant | 1-acetyl-6-hydroxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 20 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)O)(C)C1=CC=CC=C1)(C)C | C20H23NO2
reactant | 3-picolylchloride | N1=CC(=CC=C1)CCl | C6H6ClN
reactant | HCl | 12 mg | Cl | ClH
reactant | cesium carbonate | 63 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tetrabutylammonium bromide | 1 ml, 30 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-Acetyl-6-(3-pyridylmethyl)oxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)OCC=1C=NC=CC1)(C)C1=CC=CC=C1)(C)C | C26H28N2O2
